US05792887
N,N-Dimethylacetamide (14.0 parts) and 2,3,5,6-tetrafluoroterephthalic acid (2.91 parts) was heated at 70° C. for 4 hours before cooling to 20° C. adding water (7 parts) and cooling to 5° C. The precipitated solid was collected by filtration and washed with cold water and dried, the aqueous filtrates were evaporated under vacuum and the resultant solids combined to give 2,3,5,6-tetrafluorobenzoic acid (98%). 1,2,4,5-tetrafluorobenzene (2%) was also formed.

reactant | N,N-Dimethylacetamide | CN(C(C)=O)C | C4H9NO
reactant | 2,3,5,6-tetrafluoroterephthalic acid | FC1=C(C(=O)O)C(=C(C(=C1F)C(=O)O)F)F | C8H2F4O4
solvent | water | O | H2O
product | 2,3,5,6-tetrafluorobenzoic acid | 98% | FC1=C(C(=O)O)C(=C(C=C1F)F)F | C7H2F4O2
